US04294606
(c) 1-(3'-Trifluoromethanesulphonamido-4',6'-dimethylphenyl)-azetidin-2-one
12 g (0.04 mol) of trifluoromethanesulphonic acid anhydride are added dropwise in the course of 15 minutes, at -40°, to a solution of 6.6 g (0.035 mol) of 1-(3'-amino-4',6'-dimethylphenyl)-azetidin-2-one and 4.3 g (0.041 mol) of triethylamine in 100 ml of chloroform. After warming to room temperature, the clear solution is extracted twice with 200 ml of 1 N KOH. The aqueous extract is filtered, cooled and acidified with concentrated hydrochloric acid. The product thus precipitated is filtered off and washed with water until neutral. It is dried in a desiccator at 50°. The yield is 4.9 g (43%); melting point 137°-139°.

reactant | trifluoromethanesulphonic acid anhydride | 0.04 mol, 12 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-(3'-amino-4',6'-dimethylphenyl)-azetidin-2-one | 0.035 mol, 6.6 g | NC=1C=C(C(=CC1C)C)N1C(CC1)=O | C11H14N2O
reactant | triethylamine | 0.041 mol, 4.3 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3'-Trifluoromethanesulphonamido-4',6'-dimethylphenyl)-azetidin-2-one | FC(S(=O)(=O)NC=1C=C(C(=CC1C)C)N1C(CC1)=O)(F)F | C12H13F3N2O3S
